US06326386B1
{2-[3-Chloro-5-(isopropyl-2-(pyridin-2-yloxy)-ethyl-carbamoyl)-phenoxy]ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester
A solution of 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid (0.10 g) isopropyl-2-(pyridin-2-yloxy)-ethylamine (0.18 g) and EEDQ (0.136 g) in acetonitrile (2 ml) was stirred at reflux, under nitrogen, for 18 h. The solvent was evaporated and the residue was purified by flash chromatography on silica eluting with dichloromethane/methanol (98:2 then 96:4) to give the title compound as a pale yellow oil (0.033 g).

reactant | 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid | 0.10 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)O)C=C(C1)Cl)C1=CC=NC=C1 | C19H21ClN2O5
reactant | EEDQ | 0.136 g | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | {2-[3-Chloro-5-(isopropyl-2-(pyridin-2-yloxy)-ethyl-carbamoyl)-phenoxy]ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester | 0.033 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(CCOC1=NC=CC=C1)C(C)C)=O)Cl)=O | C29H35ClN4O5
